US07030116B2
(R)-4,4,6-Trimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-heptanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide
It is similarly prepared according to the general procedure for Example 10 using (S)-2-Amino-1-oxazol-2-yl-butan-1-one; hydrochloride as the amino component and (R)-4,4,6-Trimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-heptanoic acid as the acidic component but without further oxidation step.

reactant | (S)-2-Amino-1-oxazol-2-yl-butan-1-one | N[C@H](C(=O)C=1OC=CN1)CC | C7H10N2O2
reactant | hydrochloride | Cl | ClH
reactant | (R)-4,4,6-Trimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-heptanoic acid | CC(C[C@@H](C(=O)O)CC(=O)N1CCOCC1)(CC(C)C)C | C16H29NO4
product | (R)-4,4,6-Trimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-heptanoic acid[(S)-1-(oxazole-2-carbonyl)-propyl]-amide | O1C(=NC=C1)C(=O)[C@H](CC)NC([C@H](CC(CC(C)C)(C)C)CC(=O)N1CCOCC1)=O | C23H37N3O5
